US09388189B2
3-Hydroxy-N,N-dimethyl-5-(4-(((5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)methyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (75 mg, 0.13 mmol) was treated with 3-hydroxy-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (92 mg, 0.32 mmol), sodium carbonate (33 mg, 0.32 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (31 mg, 0.04 mmol) and 3 ml 1,2-dimethoxyethane and 0.75 ml water as a solvents according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 44 mg (46% yield, 89% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.13 mmol, 75 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 3-hydroxy-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.32 mmol, 92 mg | OC=1C=C(C(=O)N(C)C)C=C(C1)B1OC(C(O1)(C)C)(C)C | C15H22BNO4
reactant | sodium carbonate | 0.32 mmol, 33 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | water | 0.75 ml | O | H2O
product | 3-Hydroxy-N,N-dimethyl-5-(4-(((5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)methyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide | 46% yield | OC=1C=C(C(=O)N(C)C)C=C(C1)C1=CN(C=2N=CN=C(C21)NCC2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H40N8O4Si
